US08304557B2
5-(4-chloro-3-nitrophenoxy)-2-nitropyridine
In the same manner as in Reference Example 1 and using 4-chloro-3-nitrophenol (4.70 g, 27.1 mmol), 5-bromo-2-nitropyridine (5.00 g, 24.6 mmol), cesium carbonate (12.0 g, 36.9 mmol) and N,N-dimethylformamide (50 mL) as starting materials, the title compound (3.81 g, 52%) was obtained as a yellow solid.

reactant | 4-chloro-3-nitrophenol | 27.1 mmol, 4.70 g | ClC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H4ClNO3
reactant | 5-bromo-2-nitropyridine | 24.6 mmol, 5.00 g | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
reactant | cesium carbonate | 36.9 mmol, 12.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 5-(4-chloro-3-nitrophenoxy)-2-nitropyridine | 3.81 g, 52% | ClC1=C(C=C(OC=2C=CC(=NC2)[N+](=O)[O-])C=C1)[N+](=O)[O-] | C11H6ClN3O5
